US07615651B2
Preparation of 3′,5′Difluoro-2-methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide hydrochloride salt (E1-01)
(4′-Carbamoyl-3,5-difluoro-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-1e: 40 g) was dissolved in 500 mL of dichloromethane and treated with 34 ml of a 4.0 M hydrogen chloride solution in dioxane. After stirring overnight at room temperature, the volatiles were removed under reduced pressure and the resulting crude material was suspended in ethanol (200 mL), heated at reflux for 20 minutes and stirred overnight at room temperature. The resulting slurry was collect via filtration, rinsing with chilled ethanol, and dried under vacuum to provide the title compound (E1-01: 25 g).

reactant | (4′-Carbamoyl-3,5-difluoro-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 40 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=C(C=C(C=C1F)C1=C(C=C(C=C1)C(N)=O)C)F)=O | C25H32F2N2O3
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3′,5′Difluoro-2-methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide hydrochloride salt | 25 g | Cl.FC=1C=C(C=C(C1CNCCC(C)C)F)C1=C(C=C(C=C1)C(=O)N)C | InChI=1S/C20H24F2N2O.ClH/c1-12(2)6-7-24-11-17-18(21)9-15(10-19(17)22)16-5-4-14(20(23)25)8-13(16)3;/h4-5,8-10,12,24H,6-7,11H2,1-3H3,(H2,23,25);1H
